US08614213B2
Trans-2,5-Dichloro-N-(4-{[methyl-(5-phenyl-2H-pyrazol-3-ylmethyl)amino]-methyl}-cyclohexyl)-benzamide
To a 25 mL round-bottomed flask is added trans-2,5-dichloro-N-(4-formylcyclohexyl)benzamide (200 mg, 0.666 mmol) and N-methyl-1-(3-phenyl-1H-pyrazol-5-yl)methanamine oxalate (277 mg, 0.999 mmol) in DCM (15 mL) to give a colorless solution. Acetic acid (0.153 mL, 2.67 mmol) and sodium triacetoxyborohydride (424 mg, 1.999 mmol) are added and the mixture stirred at room temp for 90 minutes. 1M sodium hydroxide solution (4 mL) is added and the mixture is stirred at room temp for 10 minutes. The mixture is passed through a phase separator and evaporated to give a colourless oil. The crude mixture is re-dissolved in the minimum amount of DCM and applied to a pre-packed 12 g silica gel column and eluted with 0-100% EtOAc/isohexane over 6 minutes then 100% EtOAc for 8 minutes. Pure product is recovered as a colourless oil. The oil is dissolved in the minimum amount of DCM and triturated/sonicated with 9:1 isohexane/EtOAc to give a colourless solid 124 mg, [MH+471.30].

reactant | trans-2,5-dichloro-N-(4-formylcyclohexyl)benzamide | 0.666 mmol, 200 mg | ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)C=O)C=C(C=C1)Cl | C14H15Cl2NO2
reactant | N-methyl-1-(3-phenyl-1H-pyrazol-5-yl)methanamine oxalate | 0.999 mmol, 277 mg | C(C(=O)O)(=O)O.CNCC1=CC(=NN1)C1=CC=CC=C1
reactant | Acetic acid | 2.67 mmol, 0.153 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.999 mmol, 424 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1M, 4 mL | [OH-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | Trans-2,5-Dichloro-N-(4-{[methyl-(5-phenyl-2H-pyrazol-3-ylmethyl)amino]-methyl}-cyclohexyl)-benzamide | 124 mg | ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)CN(CC=2NN=C(C2)C2=CC=CC=C2)C)C=C(C=C1)Cl | C25H28Cl2N4O
